US07456164B2
N-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-methanesulfonamide
To a stirred solution of {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (200 mg, 0.628 mmol) and triethylamine (106 μL, 0.754 mmol) in anhydrous dichloromethane (8 mL) under nitrogen atmosphere was added dropwise a solution of mesyl chloride (58 μL, 0.754 mmol) in anhydrous dichloromethane (2 mL). After stirring overnight, the reaction mixture was quenched with a saturated aqueous solution of NaHCO3. The organic layer was separated and washed with a saturated aqueous solution of NaHCO3 and water then dried over magnesium sulphate, filtered and concentrated under reduced pressure to give the title compound (140 mg, 56%). 1H NMR (400 MHz, CDCl3) δ7.19 (d, 2H), 6.94 (d, 2H), 4.04 (t, 2H), 3.79 (m, 2H), 3.57 (m, 2H), 3.24 (d, 2H), 2.75 (s, 3H), 2.63 (t, 2H), 2.54 (m, 4H), 2.12 (m, 2H), 2.01 (m, 2H), 1.88 (m, 2H), 1.80 (m, 4H).

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 0.628 mmol, 200 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | triethylamine | 0.754 mmol, 106 μL | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.754 mmol, 58 μL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-{4-[4-(3-Pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-methanesulfonamide | 140 mg, 56% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CNS(=O)(=O)C | C20H32N2O4S
